US04194008
N-(2,6-Diisopropyl-phenyl)-N'-(3-trifluoromethyl-cyclohexyl)thiourea
16.0 g of 3-trifluoromethyl-cyclohexylamine are taken and 18.0 g of 2,6-diisopropyl-phenyl isothiocyanate are introduced whilst stirring. The reaction commences with slight evolution of heat. The mixture is left to stand for 12 hours and is then stirred with dilute hydrochloric acid. The crystalline product is filtered off, triturated with dilute methanol, filtered off and dried. The compound is obtained in the form of a stereomer mixture of melting point 67°-75° C.; yield 27 g. The elementary analysis and NMR and IR spectra agree with the assumed structure.

reactant | 3-trifluoromethyl-cyclohexylamine | 16.0 g | FC(C1CC(CCC1)N)(F)F | C7H12F3N
reactant | 2,6-diisopropyl-phenyl isothiocyanate | 18.0 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=S | C13H17NS
reactant | hydrochloric acid | Cl | ClH
product | N-(2,6-Diisopropyl-phenyl)-N'-(3-trifluoromethyl-cyclohexyl)thiourea | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(=S)NC1CC(CCC1)C(F)(F)F | C20H29F3N2S
